* Schematic in LTspiceXVII\lib\sym\Gluisf\Trafo.asc
* Power: 3VA
* frequency: 60Hz
* Primary: 115V + 115V
* Secondary open: 21.6V + 21.6V
* Secondary loaded: 17.6V + 17.6V
* Secondary Nominal Current: 69mA
.subckt MTE-3/7 L1A L1B L2A L2B L3A L3B L4A L4B
L1 L1A L1B {LP} Rser={RP}
L2 L2A L2B {LS} Rser={RS}
L3 L3A L3B {LP} Rser={RP}
L4 L4A L4B {LS} Rser={RS}
K1 L1 L2 L3 L4 {M}
.param LP=21.5 LS=720m RP=880 RS=42 M=1
.ends MTE-3/7

* Power: 3VA
* frequency: 60Hz
* Primary: 115V + 115V
* Secondary open: 14.4V + 14.4V
* Secondary loaded: 11.7V + 11.7V
* Secondary Nominal Current: 105mA
.subckt MTE-3/5 L1A L1B L2A L2B L3A L3B L4A L4B
L1 L1A L1B {LP} Rser={RP}
L2 L2A L2B {LS} Rser={RS}
L3 L3A L3B {LP} Rser={RP}
L4 L4A L4B {LS} Rser={RS}
K1 L1 L2 L3 L4 {M}
.param LP=21.5 LS=660m RP=880 RS=17 M=1
.ends MTE-3/5